* C:\Users\Cedric\Documents\manufacturable-ventilator\ltspice\amp.asc
V1 N004 0 {P0}
Lsupply N004 N005 {2*LGTHS/(H0*AREAS)/CS*redim_dQdt} Rser=0
Rsupply N005 Supply R=1/(CS**2)*absq2(i(Lsupply))
V2 N009 0 PULSE(0 2000 .004 1.5e-3 1.5e-3 1)
Lc1 N009 N007 flux={2*LGTHC/(H0*AREAC)*redim_dQdt}/v(D1)*x Rser=0
Lc2 0 N001 flux={2*LGTHC/(H0*AREAC)*redim_dQdt}/v(D2)*x Rser=0
Rcontrol1 N007 C1 R=v(RC1)*absq2(i(Lc1))
Rcontrol2 N001 C2 R=v(RC2)*absq2(i(Lc2))
Lo1 N006 0 {2*LGTHR/(H0*AREAR)*redim_dQdt} Rser=0
Lo2 N003 0 {2*LGTHR/(H0*AREAR)*redim_dQdt} Rser=0
Ro2 pout2 N003 R=1/(AREAR**2)*absq2(i(Lo2))
Ro1 pout1 N006 R=1/(AREAR**2)*absq2(i(Lo1))
Lv1 N008 0 {2*LGTHV/(H0*AREAV)*redim_dQdt} Rser=0
Lv2 N002 0 {2*LGTHV/(H0*AREAV)*redim_dQdt} Rser=0
Rv2 PBubble2 N002 R=RVI*absq2(i(Lv2))
Rv1 PBubble1 N008 {R_blocked_vent}
B§QS QS 0 V=i(Lsupply)/redim_Q
B§QC1 QC1 0 V=i(Lc1)/redim_Q
B§QC2 QC2 0 V=i(Lc2)/redim_Q
B§QV1 QV1 0 V=i(Rv1)/redim_Q
B§QV2 QV2 0 V=i(Rv2)/redim_Q
B§QO1 QO1 0 V=i(Ro1)/redim_Q
B§QO2 QO2 0 V=i(Ro2)/redim_Q
B§D1_min D1_min 0 V=if(v(REC1)<2500, CDMAX, -(CDMAX-CDMIN)*v(REC1)/1e4+1.25*CDMAX-0.25*CDMIN)
B§D2_min D2_min 0 V=if(v(REC2)<2500, CDMAX, -(CDMAX-CDMIN)*v(REC2)/1e4+1.25*CDMAX-0.25*CDMIN)
B§REC1 REC1 0 V=abs(v(QC1)*RE)
B§REC2 REC2 0 V=abs(v(QC2)*RE)
B§FC1 FC1 0 V=(v(C1)/P0+2*(uramp(v(QC1))/BC)**2)*BC
B§FC2 FC2 0 V=(v(C2)/P0+2*(uramp(v(QC2))/BC)**2)*BC
B§FSY FSY 0 V=v(Supply)/P0+2*v(QS)**2
Bubble1 PB2 PBubble1 V=v(Active1)*v(delpb)
B§pc1 C1 PBubble1 V=v(Active1)*v(delpb)/2
B§pc2 C2 PBubble2 V=v(Active2)*v(delpb)/2
Bubble2 PB2 PBubble2 V=v(Active2)*v(delpb)
B§psy PB2 Supply V=v(delpb)*1/4
BETA BETA 0 V=atan(v(orient)*(v(FC1)-v(FC2))/eps(v(FSY)))
B§V V 0 V=v(VBubble1Cap)
B§TS TS 0 V=if(v(ZET) > pi/2 - v(theta) - ALPH, tanh(v(YS)*SIGMA/(v(SS)+SIGMA/3)), 1)
B§ZET ZET 0 V=atan(v(R)*cos(v(BETA))/(SPL-v(R)*sin(v(BETA))))
B§SS SS 0 V=v(R)*(v(BETA)-v(ZET)+pi/2)
B§YS YS 0 V=sqrt((v(R)*cos(v(BETA)))**2+(SPL-v(R)*sin(v(BETA)))**2)-v(R)
B§T T 0 V=2*cos((2*pi-acos(-v(B)/2))/3)
B B 0 V=1.5*(-v(TS)+(v(TS)**3/3)+2/3+(2/3+v(TS)-(v(TS)**3/3))*cos(v(THETA)))
A§State N010 N011 0 0 0 Active1 Active2 0 SRFLOP
B§To2 N010 0 V=if(v(LSP) >= SPL, v(Active1), 0)
B§To1 N011 0 V=if(v(LSP) >= SPL, v(Active2), 0)
B§qr qr 0 V=0.5*i(Lsupply)*sqrt(A1*v(S1)+1)*(1-v(T))*v(Ramp)
B§qe qe 0 V=0.5*i(Lsupply)*(sqrt(A1*v(S1)+1)-1)*v(Ramp)
B§DYC DYC 0 V=-v(R)*cos(v(BETA))+sqrt((cos(v(BETA))*v(R))**2-BC*BC+2*BC*v(R)*sin(v(BETA)))
B§delpb delpb 0 V=2*redim_Q2*i(LSupply)**2/eps(v(R))*v(Ramp)**3
B§QE2 PBubble2 PB2 I=v(Active2)*v(qr)
B§QR1 PB2 PBubble1 I=v(Active1)*v(qr)
B§QR2 PB2 PBubble2 I=v(Active2)*v(qe)
B§QE1 PBubble1 PB2 I=v(Active1)*v(qe)
B§pda pda 0 V=redim_Q2*0.75*i(Rsupply)**2*(v(TS)+v(T)-(v(TS)**3+v(T)**3)/3)/AREAR*v(Ramp)
B§pdi pdi 0 V=redim_Q2*0.75*i(Rsupply)**2*(2/3-v(TS)+v(TS)**3/3)/AREAR*v(Ramp)
B§PD2 pout2 PB2 V=v(pdi)
B§PD1 pout1 PB2 V=v(pda)
B§RCMIN1 RCMIN1 0 V=1/(BC**2*v(D1_min)**2)
B§RCMIN2 RCMIN2 0 V=1/(BC**2*v(D2_min)**2)
B§RC1D RC1D 0 V=1/(eps(KC+v(orient)*v(DYC))**2)
B§RC2D RC2D 0 V=1/(eps(KC-v(orient)*v(DYC)**2))
B§RC1 RC1 0 V=max(min(v(RC1D), RCMAX), v(RCMIN1))
B§RC2 RC2 0 V=max(min(v(RC2D), RCMAX), v(RCMIN2))
B§D1 D1 0 V=if(v(RC1)==v(RC1D), 1, v(D1_min))
B§D2 D2 0 V=if(v(RC2)==v(RC2D), 1, v(D2_min))
Cap PB2 0 {sin(ALPH)*(LGTHS*B0)**2/bulk_modulus}
V§Ramp Ramp 0 1
B§LSP LSP 0 V=2*v(R)*sin(v(BETA))
XX1 N013 BETA N012 V R THETA S1 X bubble_volume
B3 N013 0 V={ALPH}
B4 N012 0 V={D+0.5}
C1 VBubble1Cap 0 {redim_V}
F1 0 VBubble1Cap Bubble1 -1
Eorient orient 0 Active1 Active2 1

* block symbol definitions
.subckt bubble_volume alph beta step area r theta arc x
Blength_past length_past 0 V=v(r)-v(r)*cos(v(beta)-v(alph))-v(step)*cos(v(alph))
Btriangular_area N003 N004 V=0.5*cos(v(alph))*v(step)*v(x)
Bcurved_area N004 0 V=0.5*v(r)**2*(v(omega)-sin(v(omega)))
XX1 length_past r area_past NC_01 NC_02 chord
Barc 0 arc I=v(r)*(v(omega)) rpar=1
Ealph N001 0 alph 0 1
Egamma gamma N001 beta 0 1
Gr 0 r r 0 1
Rr r 0 1
Gerror 0 r bubble_area N002 1
Btheta 0 theta I=acos(cos(v(gamma))-v(step)*cos(v(alph))/v(r)) rpar=1
Eomega omega gamma theta 0 1
Earea_past bubble_area N003 0 area_past 1
XX2 step nc
Bx 0 x I=cos(v(beta)-v(omega)/2)*v(step)/sin(v(omega)/2-v(gamma)) rpar=1
XX3 area nc
Barea N002 0 V=uramp(v(area))
.ends bubble_volume

.subckt chord h radius A r theta
Btheta 0 theta I=2*acos(v(r)/v(radius)) rpar=1
BA 0 A I=0.5*v(radius)**2*(v(theta) - sin(v(theta))) rpar=1
Er r 0 radius h 1
.ends chord

.subckt nc x
XX1 x NC_01 id
.ends nc

.subckt id x id_x
G1 0 id_x x 0 1
R1 id_x 0 1
.ends id

.param rho=1.2059 sigma=10 nu=1.4864e-5
.tran 0.04
.param D=0.905 B0=2.1e-3 BC=1 ALPH=.20944 XV1=8.640 LGTHC=10 AREAC=2 LGTHS=15 AREAS=3 LGTHV=10 AREAV=1.95 SPL=10 LGTHR=27.75 P0=10000 CS=0.85
.param H0=3*B0
.param Qref=B0*sqrt(2*P0/rho) RE=Qref/nu
.param redim_dQdt=B0/(H0*Qref**2) redim_Q2=rho/(2*H0**2*B0**2)
.param A1=3/sigma A2=(D+0.5)*cos(ALPH) A3=(D+0.5)*sin(ALPH) A4=(D+0.5)*tan(ALPH) AREAR=A2+SPL*sin(ALPH)
.param CDMAX=0.9 CDMIN=0.6
.param redim_Q=H0*Qref redim_V=H0*B0**2
.param KC=D+BC*tan(ALPH) RCMAX=1/(0.1414*BC)**2
.param RVI=1/AREAV**2
.param R_blocked_vent=redim_Q*redim_Q2*1e6
.func absq2(q) {redim_Q2*max(abs(q), redim_Q*0.0001)}
.option noopiter
.param epsilon=1e-5
.func eps(y) {y + if(y>=0, 1, -1)*epsilon/(1+exp(abs(y)/10))}
.param bulk_modulus=101
* Device parameters
* Calculated constants
* Dimensioned quadratic flow resistance
* Numeric precision and division by 0
* Conversion from dimensionless quantities
* Simulation
* Capture the voltage ramp up during initialization
* Amplifier
* Bubble volume and jet geometry
* Jet deflection
* Dimensionless flows
* Attachment state
* Jet-splitter intersection
* Entrained and returned flows
* Pressure across jet
* Pressure recovery at splitter
* Control resistance and discharge coefficient
.backanno
.end
